US20010041690A1
The mixture of 5 eq. phosphorous acid and β-alanine is heated to form a melt. Morpholine (1 eq.) is slowly added. The reaction is cooled to about 70° C. and 2 eq. of PCl3 are added. The mixture is heated for about 3.5 hours. Then the reaction is hydrolyzed in aqueous acid at about 75° C. for about 0.5 hours. Crystallization from aqueous acid/IPA, affords pamidronate.

reactant | phosphorous acid | 5 eq. | P(O)(O)O | H3O3P
reactant | β-alanine | NCCC(=O)O | C3H7NO2
reactant | Morpholine | 1 eq. | N1CCOCC1 | C4H9NO
reactant | PCl3 | 2 eq. | P(Cl)(Cl)Cl | Cl3P
product | pamidronate | C(CN)C(O)(P(=O)(O)O)P(=O)(O)O | C3H11NO7P2
